US06586421B2
(5aS*,10bS*)-8,9-dichloro-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole
A solution of 8,9-dichloro-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.40 g, 1.6 mmol) in TFA (4.0 mL) was cooled to 0° C., then a freshly prepared solution of Na(CN)BH3 (0.49 g, 7.8 mmol) in MeOH (1.5 mL) was added dropwise. The ice bath was removed after the addition was complete. After 2.5 h, the reaction was diluted with H2O, made basic with 50% aqueous NaOH, and extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography and prep HPLC to give 0.14 g (36%) of the title compound as pale orange solid. 1H NMR (d-CHCl3) δ 7.00, 6.58, 4.22, 3.81, 3.58, 3.14-2.98, 2.79, 2.07-1.87; IR (drift) 3201, 3170, 3149, 3031, 2927, 2852, 2838, 2750, 1608, 1483, 1450, 1365, 1273, 832, 660 cm−1; HRMS (FAB) calcd for C12H14Cl2N2+H 257.0612, found 257.0614.

reactant | 8,9-dichloro-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 1.6 mmol, 0.40 g | ClC=1C(=CC=2C3=C(NC2C1)CCNCC3)Cl | C12H12Cl2N2
solvent | TFA | 4.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH | 1.5 mL | CO | CH4O
product | (5aS*,10bS*)-8,9-dichloro-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | 0.14 g, 36% | ClC=1C(=CC=2[C@H]3[C@@H](NC2C1)CCNCC3)Cl | C12H14Cl2N2
